US08283364B2
Stage 7 Preparation of 4-fluoro-6-methyl-1-[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one
A mixture of (2-amino-3-fluoro-5-methylphenyl)[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]amine (0.5 g), N,N′-carbonyldiimidazole (0.66 g) and tetrahydrofuran (7 ml) was heated to reflux. After 30 minutes, tetrahydrofuran (3 ml) was added, and the mixture heated at reflux for a further 1½ hours. The reaction mixture was filtered and washed with tetrahydrofuran (10 ml), then the solid was dried at 40-45° C. under high vacuum to give the title compound (0.323 g).

reactant | (2-amino-3-fluoro-5-methylphenyl)[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]amine | 0.5 g | NC1=C(C=C(C=C1F)C)NC1CCN(CC1)C1CCOCC1 | C17H26FN3O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 4-fluoro-6-methyl-1-[1-(tetrahydro-2H-pyran-4-yl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one | 0.323 g | FC1=CC(=CC=2N(C(NC21)=O)C2CCN(CC2)C2CCOCC2)C | C18H24FN3O2
